US04230707
3-Chloro-10-oxo-10H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carboxylic acid
Chlorotrimethylsilane (0.4 ml, 0.03 mol) is added to a cooled (ice bath) solution of 3,10-dihydro-10-oxo-1H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carboxylic acid (0.75 g., 0.03 mol) in pyridine (5 ml) under nitrogen. The mixture is stirred at ice bath temperature for one hour and then allowed to warm to room temperature. N-Chlorosuccinimide (0.8 g., 0.06 mol) is added and the mixture is heated at 95° C. for 20 minutes. The mixture is cooled, diluted with water (3 ml) and stirred for 15 minutes. The precipitate is filtered off, dried and recrystallized from ethanol to give the product (0.5 g.), mp 285° C. (dec).

reactant | Chlorotrimethylsilane | 0.03 mol, 0.4 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | 3,10-dihydro-10-oxo-1H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carboxylic acid | 0.03 mol, 0.75 g | O=C1C2=C(N=C3N1C=C(C=C3)C(=O)O)CSC2 | C11H8N2O3S
reactant | N-Chlorosuccinimide | 0.06 mol, 0.8 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 3 ml | O | H2O
product | 3-Chloro-10-oxo-10H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carboxylic acid | ClC=1SC=C2C1N=C1N(C2=O)C=C(C=C1)C(=O)O | C11H5ClN2O3S
